US06147218
To a mixture of 80% hydrazine hydrate (1.64 g, 26.2 mmol) and methanol (5.0 ml) was dropwise added a solution of 4-(pyridin-2-yl)benzaldehyde (1.5 g, 8.2 mmol) in methanol (5.0 ml) at 25° C. over 10 minutes. After the dropwise addition, the mixture was stirred for 30 minutes. Methanol and excess hydrazine hydrate were evaporated under reduced pressure. The residue was crystallized and 4-(pyridin-2-yl)benzaldehyde hydrazone was obtained as crude crystals at a yield of 1.6 g (yield:100%). The percentage of the area of 4-(pyridin-2-yl)benzaldehyde hydrazone in the crude crystals as determined by liquid chromatography was 94.30%.

reactant | hydrazine hydrate | 26.2 mmol, 1.64 g | O.NN
reactant | 4-(pyridin-2-yl)benzaldehyde | 8.2 mmol, 1.5 g | N1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
solvent | methanol | 5.0 ml | CO | CH4O
solvent | methanol | 5.0 ml | CO | CH4O
product | 4-(pyridin-2-yl)benzaldehyde hydrazone | yield:100% | N1=C(C=CC=C1)C1=CC=C(C=NN)C=C1 | C12H11N3
